US09145413B2
a. (S)-3-[N′-(5-Fluoro-pyridin-2-yl)-hydrazinocarbonyl]-piperidine-1-carboxylic acid tert-butyl ester (Intermediate 88a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (1.27 g, 10.0 mmol), (S)-1-BOC piperidine-3-carboxylic acid (Alfa Aesar, 2.29 g, 10.0 mmol) and HOBt.H2O (153 mg, 1.00 mmol) in DCM (50 mL) was added EDC (2.30 g, 12.0 mmol) and the resulting orange solution stirred at RT for 16 h. Water (25 mL) was added and the mixture shaken. The aqueous was extracted with DCM (25 mL) then the combined organics were passed through a hydrophobic fit and concentrated in vacuo to leave a pale brown foam. FCC, using 0-5% MeOH in DCM, gave the title compound as a pale orange foam (3.21 g, 95%). LCMS (Method 3): Rt 3.14 min, m/z 361 [MNa+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 10.0 mmol, 1.27 g | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | (S)-1-BOC piperidine-3-carboxylic acid | 10.0 mmol, 2.29 g | C(=O)(OC(C)(C)C)N1C[C@H](CCC1)C(=O)O | C11H19NO4
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 12.0 mmol, 2.30 g
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | Water | 25 mL | O | H2O
solvent | H2O | 1.00 mmol, 153 mg | O | H2O
product | (S)-3-[N′-(5-Fluoro-pyridin-2-yl)-hydrazinocarbonyl]-piperidine-1-carboxylic acid tert-butyl ester | 3.21 g, 95% | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)C(=O)NNC1=NC=C(C=C1)F | C16H23FN4O3
